US07517905B2
Preparation of 3-(2-Methoxy-5-methylphenyl)-3-phenyl propanoic acid-(3-benzyl-3-azabicyclo[3.1.0]hexane-6-yl-carbamoyl)methyl ester (Compound No. 1)
The compound, 3-benzyl-3-azabicylo[3.1.0]hex-6-yl-2-chloroacetamide, 150 mg, 0.65 mmole, 1 eq (prepared by reacting 3-benzyl-3-azabicylo[3.1.0]hex-6-yl amine with 2-chloroacetyl chloride. The compound 3-benzyl-3-azabicyclo[3.1.0]hex-6-ylamine, in turn, can be prepared following the procedure of T. F. Braish et al., Synlett 1996, 1100) was dissolved in xylene. To the reaction mixture, potassium iodide was added with subsequent addition of (2-methoxy-5-methylphenyl)-3-phenyl propanoic acid (230 mg, 0.85 mmole, 1.5 eq) and 1,8-diazabicyclo[5.4.0]undec-7-ene. The reaction mixture was refluxed for 2 hours. Xylene was removed under pressure and the residue was dissolved in dichloromethane. The organic compound was then purified through column chromatography using 60% ethyl acetate in hexane.

reactant | 3-benzyl-3-azabicylo[3.1.0]hex-6-yl-2-chloroacetamide | C(C1=CC=CC=C1)N1CC2C(C2C1)C(C(=O)N)Cl | C14H17ClN2O
reactant | 3-benzyl-3-azabicylo[3.1.0]hex-6-yl amine | C(C1=CC=CC=C1)N1CC2C(C2C1)N | C12H16N2
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium iodide | [I-].[K+]
reactant | (2-methoxy-5-methylphenyl)-3-phenyl propanoic acid | 0.85 mmole, 230 mg, 1.5 eq | COC1=C(C=C(C=C1)C)C(C(=O)O)CC1=CC=CC=C1 | C17H18O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(2-Methoxy-5-methylphenyl)-3-phenyl propanoic acid-(3-benzyl-3-azabicyclo[3.1.0]hexane-6-yl-carbamoyl)methyl ester | C(C1=CC=CC=C1)N1CC2C(C2C1)NC(=O)COC(CC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OC)=O | C31H34N2O4
